US04997595
Example 8: Synthesis of 4-(N,N-diethyl)amino-β-nitro-3-methylstyrene (Me-DEANST)
A solution was prepared by dissolving 30 grams (0.16 mol) of 3-methyl-4-(N,N-diethylamino)benzaldehyde in 150 ml of nitromethane, and added with 5 grams of ammonium acetate. The mixture was heated at 100° C. for 5 hours under agitation. The reaction solution was then cooled on a dry ice-acetone bath until crystallization had been completed. The separated solid (crystal) was filtered off and dried in vacuum. The obtained product was recrystallized from acetonitrile for two times. An amount of 17 grams of red crystals was obtained. The yield was 45%.

reactant | 3-methyl-4-(N,N-diethylamino)benzaldehyde | 0.16 mol, 30 grams | CC=1C=C(C=O)C=CC1N(CC)CC | C12H17NO
reactant | ammonium acetate | 5 grams | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 150 ml | [N+](=O)([O-])C | CH3NO2
product | 4-(N,N-diethyl)amino-β-nitro-3-methylstyrene | 17 grams, yield was 45% | C(C)N(CC)C1=C(C=C(C=C[N+](=O)[O-])C=C1)C | C13H18N2O2
